US09056859B2
Step E: 2-Bromo-3-methylthieno[2,3-c]furan-6-(4H)-one
In a 50 mL round bottom flask was added 3-methylthieno[2,3-c]furan-6-(4H)-one (130 mg, 0.843 mmol, 1.0 eq) and chloroform (5 mL). To above solution was added bromine (86 μL, 1.08 mmol, 2.0 eq) in chloroform. The reaction was heat to reflux for 3 hr, cooled down, diluted with dichloromethane, washed with water, diluted sodium thiosulfate. The organic phase was dried over MgSO4, filtered and concentrated. The desired product was obtained after purification by flash column chromatography. LC-MS (IE, m/z): 235.2 [M+1]+; 1H NMR (500 MHz, CDCl3, δ in ppm): 5.16 (2H, s), 2.19 (3H, s);

reactant | 3-methylthieno[2,3-c]furan-6-(4H)-one | 0.843 mmol, 130 mg, 1.0 eq | CC1=CSC=2C(OCC21)=O | C7H6O2S
reactant | bromine | 1.08 mmol, 86 μL, 2.0 eq | BrBr | Br2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | chloroform | 5 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-Bromo-3-methylthieno[2,3-c]furan-6-(4H)-one | BrC1=C(C2=C(C(OC2)=O)S1)C | C7H5BrO2S
